* Test rc discharge with noop
R1 1 2 1K
d1 2 0 D1N3940
C1 1 0 1u IC=1
.tran 0 2m noop
.print tran V(1) V(2)
.MODEL D1N3940 D(IS = 4E-10 RS = .105 N = 1.48 TT = 8E-7 CJO = 1.95E-11
+VJ = .4 M = .38 EG = 1.36 XTI = -8 KF = 0 AF = 1 FC = .9 BV = 600
+IBV = 1E-4)
.end
