Test of global params in VSRC combined with voltage source stepping

.global_param dvdd = '1.8'

V1 1 0 'dvdd'
R1 1 2 1.0
R2 2 0 2.0

.DC R1 1.0 1.0 1.0
.PRINT dc R1 V(1) V(2)
.options output PRINTFOOTER=false PRINTHEADER=false
.options nonlin continuation=sourcestep2

