Test of global params in VSRC combined with voltage source stepping

.global_param dvdd = '1.5'

V1 1 0 'dvdd'
R1 1 2 1.0
R2 2 0 2.0

.DC R1 1.0 1.0 1.0
.options output PRINTFOOTER=false
.PRINT dc R1 V(2)

.options nonlin continuation=sourcestep

